US08293735B2
(R)-Hexahydro-pyrazino[2,1-c][1,4]oxazin-4-one
To a solution of (R)-4-oxo-hexahydro-pyrazino[2,1-c][1,4]oxazine-8-carboxylic acid tert-butyl ester in DCM (5 mL) was added TFA (1 mL). The resulting mixture was stirred at RT for 2 h then concentrated in vacuo. The resulting residue was azeotroped with toluene then purified by SCX column to give the title compound as a colourless oil (60 mg, 76%).

reactant | (R)-4-oxo-hexahydro-pyrazino[2,1-c][1,4]oxazine-8-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H]2COCC(N2CC1)=O | C12H20N2O4
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-Hexahydro-pyrazino[2,1-c][1,4]oxazin-4-one | 60 mg, 76% | C1OCC(N2[C@@H]1CNCC2)=O | C7H12N2O2
